US04215195
Triethylamine (24 g, 0.24 mole) was added dropwise at 0° C. to a solution of N-(3-aminopropyl)-methacrylamide hydrochloride (40 g, 0.24 mole) and diketene (20 g, 0.24 mole) in methanol (800 ml). After addition, the temperature was maintained at 0° C. for 2 hours under stirring. Stirring was continued at 20° C. for 20 hours. The solvent was then removed. The residue was dissolved in chloroform (1 liter), washed with 5% hydrochloric acid (200 ml), washed with saturated NaHCO3 (200 ml), dried over anhydrous magnesium sulfate, and filtered. Excess solvent was removed. The residue was recrystallized from benzene (500 ml) and ethyl ether (500 ml) to give N-(3-acetoacetamidopropyl)methacrylamide (m.p.=93°-94° C.) at a yield of 50%.

reactant | Triethylamine | 0.24 mole, 24 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-aminopropyl)-methacrylamide hydrochloride | 0.24 mole, 40 g | Cl.NCCCNC(C(=C)C)=O
reactant | diketene | 0.24 mole, 20 g | C=C1CC(=O)O1 | C4H4O2
solvent | methanol | 800 ml | CO | CH4O
product | N-(3-acetoacetamidopropyl)methacrylamide | yield of 50% | C(CC(=O)C)(=O)NCCCNC(C(=C)C)=O | C11H18N2O3
